US06093696
N-Acetyl-D-thioproline-α-methyl-L-tyrosine methyl ester
EDC.HCl (760 mg, 3.96 mmol) was added to a solution of N-acetyl-D-thioproline (630 mg, 3.6 mmol), Intermediate 5 (880 mg, 3.6 mmol), HOBT (535 mg, 3.96 mmol) and NMM (834 μl, 7.6 mmol) in DMF (20 ml). The mixture was stirred at room temperature overnight. The DMF was evaporated in vacuo and the residue dissolved in ethyl acetate (150 ml) and water (50 ml). The organic phase was washed with 10% citric acid (50 ml), saturated aqueous NaHCO3 (50 ml) and water (50 ml), dried (Na2SO4) and evaporated in vacuo. The residue was purified by column chromatography (SiO2, methanol/DCM, 7:93) to give the title compound as a colourless gum (680 mg, 52%); δH (DMSO-d6, 400K) 7.40 (1H, br s, CONH), 6.93 (2H, d, J 8.6 Hz, ArH), 6.68 (2H, d, J 8.3 Hz, ArH), 4.84 (1H, dd, J 3.8, 7.4 Hz, CHαthiopro), 4.78 (1H, d, J 9.2 Hz, NCHAHBS), 4.40 (1H, d, J 9.2 Hz, NCHAHBS), 3.63 (3H, S, CO2CH3), 3.30 (1H, dd, J 7.4, 11.5 Hz, CHCHAHBS), 3.16 (1H, dd, J 3.8, 11.5 Hz, CHCHAHBS), 3.13 (1H, d, J 13.7 Hz, CHAHBAr), 3.03 (1H, d, J 13.7 Hz, CHAHBAr), 2.02 (3H, s, CH3CO) and 1.38 (3H, s, CCH3); m/z (ES, 15V) 367 (M+ +1).

reactant | EDC.HCl | 3.96 mmol, 760 mg | CCN=C=NCCCN(C)C.Cl
reactant | N-acetyl-D-thioproline | 3.6 mmol, 630 mg | C(C)(=O)N1[C@@H](C(=O)O)CSC1 | C6H9NO3S
reactant | HOBT | 3.96 mmol, 535 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 7.6 mmol, 834 μl | CN1CCOCC1 | C5H11NO
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
product | N-Acetyl-D-thioproline α-methyl-L-tyrosine methyl ester | 680 mg, 52% | C(C)(=O)N1[C@@H](C(=O)O)CSC1.COC([C@@](N)(CC1=CC=C(C=C1)O)C)=O | InChI=1S/C11H15NO3.C6H9NO3S/c1-11(12,10(14)15-2)7-8-3-5-9(13)6-4-8;1-4(8)7-3-11-2-5(7)6(9)10/h3-6,13H,7,12H2,1-2H3;5H,2-3H2,1H3,(H,9,10)/t11-;5-/m01/s1
